US07612067B2
Preparation of 8-(1-ethyl-propyl)-2,6-dimethyl-3-[3-methyl-5-(2-methyl-2H-pyrazol-3-yl)-thiophen-2-yl]-imidazo[1,2-b]pyridazine
Using a procedure similar to Example 25, 1-methylpyrazole (0.17 g, 2.04 mmol), 1.56 M n-Bu-Li (1.34 mL, 2.09 mmol), ZnCl2 (4.3 mL, 2.14 mmol), 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.40 g, 1.02 mmol) and PdCl2(dppf) (0.037 g, 0.051 mmol) furnish the title compound (0.35 g, 0.89 mmol, 88%). 1H NMR (CDCl3), δ 0.88 (t, J=7.5 Hz, 6H), 1.74-1.92 (m, 4H), 2.17 (s, 3H), 2.50 (s, 3H), 2.52 (s, 3H), 3.28-3.38 (m, 1H), 4.05 (s, 3H), 6.42 (d, J=1.8 Hz, 1H), 6.68 (s, 1H), 7.08 (s, 1H), 7.46 (d, J=1.8 Hz, 1H). LC/MS (m/z): calcd. for C22H27N5S (M+H)+: 394.7; found: 394.2.

reactant | 1-methylpyrazole | 2.04 mmol, 0.17 g | CN1N=CC=C1 | C4H6N2
reactant | n-Bu-Li | 2.09 mmol, 1.56 M, 1.34 mL | C(CCC)[Li]
reactant | 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 1.02 mmol, 0.40 g | BrC1=CC(=C(S1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C | C18H22BrN3S
catalyst | ZnCl2 | 2.14 mmol, 4.3 mL | [Cl-].[Cl-].[Zn+2]
catalyst | PdCl2(dppf) | 0.051 mmol, 0.037 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 8-(1-ethyl-propyl)-2,6-dimethyl-3-[3-methyl-5-(2-methyl-2H-pyrazol-3-yl)-thiophen-2-yl]-imidazo[1,2-b]pyridazine | 0.89 mmol, 0.35 g, 88% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C=2SC(=CC2C)C=2N(N=CC2)C | C22H27N5S
